US05164371
n-Butyllithium (28.5 ml of a 2.54M solution in hexane) was added to a -78° solution of oxazole (5.0 g) in ether (150 ml). The resulting solution was stirred at -78° for 30 min, followed by the addition of trimethylsilyl chloride (7.86 g), and the mixture allowed to warm to room temperature. The reaction mixture was distilled and the fraction with a boiling point of about 130° was collected to afford 2-trimethylsilyl oxazole (5.12 g); MS, m/e=142(M+1), 91, 73.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | oxazole | 5.0 g | O1C=NC=C1 | C3H3NO
reactant | trimethylsilyl chloride | 7.86 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | hexane | CCCCCC | C6H14
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-trimethylsilyl oxazole | 5.12 g | C[Si](C=1OC=CN1)(C)C | C6H11NOSi
